US05849765
4-(Benzothiazol-2-yl)-1-(3-chlorobenzyl)-1,2,3,6-tetrahydropyridine
4-(Benzothiazol-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride (200 mg, 0.8 mmol) was reacted with 3-chlorobenzyl bromide (0.1 ml, 0.8 mmol) as exemplified in Example 1. The crude product was purified by flash chromatography eluting with 15% ethyl acetate in petroleum ether to give the title compound as a pale yellow solid (120 mg, 45%); (Found: C, 65.57; H, 4.87; N, 7.59. C19H17ClNS. 0.5H2O requires C, 65.22; H, 5.19; N, 8.01%). δH (CDCl3), 2.77 (2H, m, NCH2 CH2), 2.84 (2H, m, NCH2CH2), 3.24 (2H, m, NCH2 CH2), 3.65 (2H, s, NCH2Ar), 6.68 (1H, m, NCH2CH), 7.25 (2H, s, ArH), 7.36 (4H, m, ArH), 7.82 (1H, d, J 8.0Hz, ArH), 7.98 (1H, d, J 8.1Hz, ArH). m/z (ES+) 341 (M+1)+.

reactant | 4-(Benzothiazol-2-yl)-1,2,3,6-tetrahydropyridine hydrochloride | 0.8 mmol, 200 mg | Cl.S1C(=NC2=C1C=CC=C2)C=2CCNCC2
reactant | 3-chlorobenzyl bromide | 0.8 mmol, 0.1 ml | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
product | 4-(Benzothiazol-2-yl)-1-(3-chlorobenzyl)-1,2,3,6-tetrahydropyridine | 120 mg, 45% | S1C(=NC2=C1C=CC=C2)C=2CCN(CC2)CC2=CC(=CC=C2)Cl | C19H17ClN2S
